US08563742B2
A mixture of 5-ethyl-thiophene-2-carboxaldehyde (14.25 g, 101.6 mmol) and 3-amino-propionic acid tert-butyl ester hydrochloride (22.2 g, 122 mmol) in DCM was stirred for 3 hr at RT. Sodium triacetoxyborohydride (30.1 g, 142.2 mmol) was added in portions and the reaction was stirred for 2 h, at which point TLC indicated the completion of the reaction. To the reaction mixture was added a saturated aq solution of sodium bicarbonate, and then the phases were separated. The aqueous layer was extracted with DCM two times. The combined organic extracts were dried over sodium sulfate, concentrated under vacuum and the resulting material was purified on a silica gel column (eluent: hexanes→2% hexanes in EtOAc→5% hexanes in EtOAc→10% hexanes in EtOAc→20% hexanes in EtOAc→50% hexanes in EtOAc) to give 3-[(5-ethyl-thiophen-2-ylmethyl)-amino]-propionic acid tert-butyl ester (8.91 g, 32.6% yield).

reactant | 5-ethyl-thiophene-2-carboxaldehyde | 101.6 mmol, 14.25 g | C(C)C1=CC=C(S1)C=O | C7H8OS
reactant | 3-amino-propionic acid tert-butyl ester hydrochloride | 122 mmol, 22.2 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | Sodium triacetoxyborohydride | 142.2 mmol, 30.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[(5-ethyl-thiophen-2-ylmethyl)-amino]-propionic acid tert-butyl ester | 8.91 g, 32.6% yield | C(C)(C)(C)OC(CCNCC=1SC(=CC1)CC)=O | C14H23NO2S
